data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([N+:4](=[O:16])[O-:19])[s:5][cH:2][c:8]([N+:3](=[O:12])[O-:14])[cH:15]1.[cH:6]1[cH:9][c:10]2[c:20]([cH:13][cH:21]1)[CH:18]=[CH:7][CH:17]2[Li:11]>>[C:1]1([N+:4](=[O:16])[O-:19])=[CH:15][C:8](=[N+:3]([O-:12])[O-:14])[CH:2]([CH:17]2[CH:7]=[CH:18][c:20]3[c:10]2[cH:9][cH:6][cH:21][cH:13]3)[S:5]1.[Li+:11]", "epd": [["Sigma-/Sigma+", [17, 11], [17, 2]], ["Pi-/Pi+", [2, 8], [8, 3]], ["Pi-/LP+", [3, 12], [12]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:4]1[c:13]([CH+:26][c:14]2[cH:5][c:17]([F:21])[cH:25][c:18]([F:22])[cH:6]2)[cH:7][c:15]([F:19])[cH:24][c:16]1[F:20].[n:1]1([CH3:3])[cH:11][cH:9][c:2]([O-:10])[n:23][c:12]1=[O:8]>>[n:1]1([CH3:3])[cH:11][cH:9][c:2](=[O:10])[n:23]([CH:26]([c:13]2[cH:4][c:16]([F:20])[cH:24][c:15]([F:19])[cH:7]2)[c:14]2[cH:5][c:17]([F:21])[cH:25][c:18]([F:22])[cH:6]2)[c:12]1=[O:8]", "epd": [["LP-/Pi+", [10], [2, 10]], ["Pi-/Sigma+", [23, 2], [23, 26]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:4][CH2:23][c:24]1[c:9]([CH3:26])[cH:10][nH:19][c:15]1[CH3:7].[cH:1]1[cH:2][cH:14][cH:5][c:6]2[c:3]1[N+:20]([CH3:11])=[CH:13][C:12]2=[CH:8][c:18]1[cH:16][cH:21][cH:25][cH:22][cH:17]1>>[cH:1]1[cH:2][cH:14][cH:5][c:6]2[c:3]1[n:20]([CH3:11])[cH:13][c:12]2[CH:8]([CH:10]1[C:9]([CH3:26])=[C:24]([CH2:23][CH3:4])[C:15]([CH3:7])=[NH+:19]1)[c:18]1[cH:16][cH:21][cH:25][cH:22][cH:17]1", "epd": [["LP-/Pi+", [19], [15, 19]], ["Pi-/Pi+", [24, 15], [9, 24]], ["Pi-/Sigma+", [10, 9], [10, 8]], ["Pi-/Pi+", [8, 12], [12, 13]], ["Pi-/LP+", [13, 20], [20]]]}
{"reaction_name": "Cyclization onto nitrile", "rsmi": "[CH2:1]([C:5]#[N:2])[CH2:6][CH2:3][CH2-:4]>>[CH2:1]1[C:5](=[N-:2])[CH2:4][CH2:3][CH2:6]1", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Pi-/LP+", [2, 5], [2]]]}
{"reaction_name": "Nucleophilic addition to terminal diazo nitrogen", "rsmi": "[N+:1]([C-:11]([C:2]([O:16][CH3:6])=[O:18])[C:3]([O:17][CH3:7])=[O:19])#[N:25].[c:4]1([S:20](=[O:23])(=[O:24])[CH-:27][c:10]2[cH:8][cH:21][cH:26][cH:22][cH:9]2)[cH:12][cH:14][cH:5][cH:15][cH:13]1>>[N:1]([C-:11]([C:2]([O:16][CH3:6])=[O:18])[C:3]([O:17][CH3:7])=[O:19])=[N:25][CH:27]([c:10]1[cH:8][cH:21][cH:26][cH:22][cH:9]1)[S:20]([c:4]1[cH:12][cH:14][cH:5][cH:15][cH:13]1)(=[O:23])=[O:24]", "epd": [["LP-/Sigma+", [27], [27, 25]], ["Pi-/LP+", [25, 1], [1]]]}
{"reaction_name": "Cleavage of azo compounds", "rsmi": "[H:5][H:6].[H:7][H:8].[cH:1]1[cH:13][cH:2][cH:16][c:10]([N:12]=[N:11][c:9]2[cH:17][cH:3][cH:14][cH:4][cH:18]2)[cH:15]1>>[cH:1]1[cH:13][cH:2][cH:16][c:10]([N:12]([H:7])[H:8])[cH:15]1.[cH:3]1[cH:14][cH:4][cH:18][c:9]([N:11]([H:5])[H:6])[cH:17]1", "epd": [["Sigma-/Sigma+", [5, 6], [5, 11]], ["LP-/Sigma+", [11], [6, 11]], ["Sigma-/LP+", [11, 12], [11]], ["Pi-/Sigma+", [11, 12], [7, 12]], ["Sigma-/Sigma+", [7, 8], [8, 12]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:2][CH2:15][O:19][C:7](=[O:5])[C-:9]([F:6])[C:8](=[O:4])[O:20][CH2:16][CH3:3].[cH:1]1[cH:10][cH:17][c:14]([N+:12](=[CH2:13])[CH3:21])[cH:18][cH:11]1>>[cH:1]1[cH:10][cH:17][c:14]([N:12]([CH2:13][C:9]([F:6])([C:7](=[O:5])[O:19][CH2:15][CH3:2])[C:8](=[O:4])[O:20][CH2:16][CH3:3])[CH3:21])[cH:18][cH:11]1", "epd": [["LP-/Sigma+", [9], [9, 13]], ["Pi-/LP+", [13, 12], [12]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:2][O:4][c:10]1[cH:32][cH:17][c:16]([CH:28]=[C:25]2[CH:29]=[C:11]([Br:23])[C:13](=[O:20])[C:12]([Br:24])=[CH:30]2)[cH:18][cH:33]1.[c:1]1([S:19](=[O:26])(=[O:27])[CH-:34][c:7]2[cH:5][cH:21][cH:31][cH:22][cH:6]2)[cH:8][cH:14][cH:3][cH:15][cH:9]1>>[c:1]1([S:19](=[O:26])(=[O:27])[CH:34]([c:7]2[cH:5][cH:21][cH:31][cH:22][cH:6]2)[CH:28]([c:16]2[cH:17][cH:32][c:10]([O:4][CH3:2])[cH:33][cH:18]2)[c:25]2[cH:29][c:11]([Br:23])[c:13]([O-:20])[c:12]([Br:24])[cH:30]2)[cH:8][cH:14][cH:3][cH:15][cH:9]1", "epd": [["LP-/Sigma+", [34], [34, 28]], ["Pi-/Pi+", [28, 25], [25, 29]], ["Pi-/Pi+", [29, 11], [11, 13]], ["Pi-/LP+", [13, 20], [20]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:8]1[N+:15](=[CH:3][CH:37]=[CH:9][c:28]2[cH:4][cH:18][cH:2][cH:19][cH:5]2)[CH:12]([CH2:39][c:34]2[cH:42][cH:10][cH:21][cH:11][cH:43]2)[C:26](=[O:6])[N:35]1[CH3:25])([CH3:30])([CH3:31])[CH3:32].[cH:7]1[cH:22][cH:13][c:33]([C:24](=[C:16]2[N:17]([CH3:40])[C:27]([CH3:38])=[C:44]([CH3:41])[S:29]2)[O:36][CH3:20])[cH:14][cH:23]1>>[C:1]([CH:8]1[N:15]([CH:3]=[CH:37][CH:9]([C:24]([c:16]2[n+:17]([CH3:40])[c:27]([CH3:38])[c:44]([CH3:41])[s:29]2)([c:33]2[cH:13][cH:22][cH:7][cH:23][cH:14]2)[O:36][CH3:20])[c:28]2[cH:4][cH:18][cH:2][cH:19][cH:5]2)[CH:12]([CH2:39][c:34]2[cH:42][cH:10][cH:21][cH:11][cH:43]2)[C:26](=[O:6])[N:35]1[CH3:25])([CH3:30])([CH3:31])[CH3:32]", "epd": [["LP-/Pi+", [17], [16, 17]], ["Pi-/Sigma+", [24, 16], [24, 9]], ["Pi-/Pi+", [9, 37], [37, 3]], ["Pi-/LP+", [3, 15], [15]]]}
